US07030141B2
Step 2: 5′-Amino-3,4,5,6-tetrahydro-[1,2′]bipyridinyl-2-one
5′-Nitro-3,4,5,6-tetrahydro-[1,2′]bipyridinyl-2-one (0.66 g, 2.98 mmol) was dissolved in 1:1 MeOH/THF (50 mL) and hydrogenated over RaNi (1 g) at 4285 psi/mole for 0.8 h. The catalyst was filtered, and the filtrate concentrated. The crude solid was purified by recrystalization from THF and hexanes to give the product as a yellow solid (0.275 g, 48% ). MS: APCI (AP+): 192.1 (M)+.

reactant | 5′-Nitro-3,4,5,6-tetrahydro-[1,2′]bipyridinyl-2-one | 2.98 mmol, 0.66 g | [N+](=O)([O-])C=1C=CC(=NC1)N1C(CCCC1)=O | C10H11N3O3
solvent | MeOH THF | 50 mL | CO.C1CCOC1
catalyst | RaNi | 1 g | [Ni] | Ni
product | 5′-Amino-3,4,5,6-tetrahydro-[1,2′]bipyridinyl-2-one | 0.275 g, 48% | NC=1C=CC(=NC1)N1C(CCCC1)=O | C10H13N3O
